US03951993
Heating a solution of 6.3 g of 2-fluorobenzaldehyde and 14.5 g of 3-amino-3-ethoxyacrylic acid methyl ester in 50 ml isopropanol for 8 hours yields 2-amino-4-(2-fluorophenyl)-6-ethoxy-4,5-dihydropyridine-3,5-dicarboxylic acid dimethyl ester of melting point 180°C (isopropanol).

reactant | 2-fluorobenzaldehyde | 6.3 g | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | 3-amino-3-ethoxyacrylic acid methyl ester | 14.5 g | COC(C=C(OCC)N)=O | C6H11NO3
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 2-amino-4-(2-fluorophenyl)-6-ethoxy-4,5-dihydropyridine-3,5-dicarboxylic acid dimethyl ester | COC(=O)C1=C(N=C(C(C1C1=C(C=CC=C1)F)C(=O)OC)OCC)N | C17H19FN2O5
